US06645932B2
To a mixture of 50.8 g 90.8% pure 1,1,2,5-tetramethyl-3-(4-methyl-benzyl)indane and 52.5 g 1,2-dichloroethane was added with stirring at 28-30° C. a mixture of 26.7 g aluminum trichloride, 14.8 g acetyl chloride and 75 g 1,2-dichloroethane in the course of one hour and twenty minutes. After an additional stirring period of 30 minutes at 20° C. the mixture was poured on ice and stirred for another hour. The organic layer was washed with subsequently 5%-sodium carbonate solution, saturated sodium chloride solution and concentrated by means of a rotatory evaporator yielding 34.9% 2-acetyl-1,1,3,5-tetramethylindene in 45.6 g residue. Recrystallization from methanol gave 99.4% pure 2-acetyl-1,1,3,5-tetramethylindene.

reactant | 1,1,2,5-tetramethyl-3-(4-methyl-benzyl)indane | 50.8 g | CC1(C(C(C2=CC(=CC=C12)C)CC1=CC=C(C=C1)C)C)C | C21H26
reactant | aluminum trichloride | 26.7 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | acetyl chloride | 14.8 g | C(C)(=O)Cl | C2H3ClO
solvent | 1,2-dichloroethane | 75 g | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 52.5 g | ClCCCl | C2H4Cl2
product | 2-acetyl-1,1,3,5-tetramethylindene | 34.9% | C(C)(=O)C=1C(C2=CC=C(C=C2C1C)C)(C)C | C15H18O
